data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:4](=[O:24])[O-:26])[s:5][cH:2][c:8]([N+:3](=[O:14])[O-:20])[cH:21]1.[c:6]1([S:17](=[O:22])(=[O:23])[CH-:27][c:11]2[cH:9][cH:18][cH:25][cH:19][cH:10]2)[cH:12][cH:15][cH:7][cH:16][cH:13]1>>[C:1]1([N+:4](=[O:24])[O-:26])=[CH:21][C:8](=[N+:3]([O-:14])[O-:20])[CH:2]([CH:27]([c:11]2[cH:9][cH:18][cH:25][cH:19][cH:10]2)[S:17]([c:6]2[cH:12][cH:15][cH:7][cH:16][cH:13]2)(=[O:22])=[O:23])[S:5]1", "epd": [["LP-/Sigma+", [27], [27, 2]], ["Pi-/Pi+", [2, 8], [8, 3]], ["Pi-/LP+", [3, 14], [14]]]}
{"reaction_name": "Anionic alkene polymerization", "rsmi": "[CH2:4]=[CH:6][C:7]#[N:8].[CH3:1][CH-:3][C:5]#[N:2]>>[CH3:1][CH:3]([CH2:4][CH-:6][C:7]#[N:8])[C:5]#[N:2]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Pi-/LP+", [4, 6], [6]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[O-:3][c:24]1[cH:17][c:12](=[O:18])[n:25]([CH3:8])[c:20](=[O:7])[n:26]1[CH3:19].[cH:1]1[cH:10][cH:2][c:4]2[c:11]([o+:5][c:9](-[c:22]3[cH:15][cH:13][cH:23][cH:14][cH:16]3)[cH:6][cH:21]2)[cH:27]1>>[cH:1]1[cH:10][cH:2][c:4]2[c:11]([cH:27]1)[O:5][C:9]([c:22]1[cH:15][cH:13][cH:23][cH:14][cH:16]1)=[CH:6][CH:21]2[CH:17]1[C:12](=[O:18])[N:25]([CH3:8])[C:20](=[O:7])[N:26]([CH3:19])[C:24]1=[O:3]", "epd": [["LP-/Pi+", [3], [24, 3]], ["Pi-/Sigma+", [17, 24], [17, 21]], ["Pi-/Pi+", [21, 6], [6, 9]], ["Pi-/LP+", [9, 5], [5]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:2]1([B-:28]2([c:30]3[cH:21][c:9]([C:4]([F:37])([F:38])[F:39])[cH:13][c:10]([C:5]([F:40])([F:41])[F:42])[cH:22]3)[O:33][CH2:43][C:24]([CH3:16])([CH3:17])[CH2:44][O:34]2)[s:12][c:8]([CH3:31])[cH:3][cH:14]1.[cH:1]1[cH:6][cH:25][cH:11][c:15]2[c:7]1[N+:32]([CH3:19])=[CH:23][C:20]2=[CH:18][c:29]1[cH:26][cH:35][cH:45][cH:36][cH:27]1>>[C:4]([c:9]1[cH:13][c:10]([C:5]([F:40])([F:41])[F:42])[cH:22][c:30]([B-:28]2=[O+:33][CH2:43][C:24]([CH3:16])([CH3:17])[CH2:44][O:34]2)[cH:21]1)([F:37])([F:38])[F:39].[cH:1]1[cH:6][cH:25][cH:11][c:15]2[c:7]1[n:32]([CH3:19])[cH:23][c:20]2[CH:18]([c:2]1[s:12][c:8]([CH3:31])[cH:3][cH:14]1)[c:29]1[cH:26][cH:35][cH:45][cH:36][cH:27]1", "epd": [["LP-/Pi+", [33], [28, 33]], ["Sigma-/Sigma+", [2, 28], [2, 18]], ["Pi-/Pi+", [18, 20], [20, 23]], ["Pi-/LP+", [23, 32], [32]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:7][C:24]1=[C:29]([Cl:19])[C:10](=[O:14])[C:9](=[O:13])[C:30]([Cl:20])=[C:25]1[Cl:8].[cH:1]1[cH:5][c:23]([CH:3]=[C:31]2[CH:26]=[CH:15][C:21](=[N+:22]([O-:17])[O-:18])[CH:16]=[CH:27]2)[cH:6][cH:2][c:11]1[N+:28](=[O:4])[O-:12]>>[cH:1]1[cH:5][c:23]([CH:3]([C:9]2([O-:13])[C:10](=[O:14])[C:29]([Cl:19])=[C:24]([Cl:7])[C:25]([Cl:8])=[C:30]2[Cl:20])[c:31]2[cH:26][cH:15][c:21]([N+:22](=[O:17])[O-:18])[cH:16][cH:27]2)[cH:6][cH:2][c:11]1[N+:28](=[O:4])[O-:12]", "epd": [["LP-/Pi+", [17], [22, 17]], ["Pi-/Pi+", [21, 22], [15, 21]], ["Pi-/Pi+", [26, 15], [31, 26]], ["Pi-/Sigma+", [3, 31], [3, 9]], ["Pi-/LP+", [9, 13], [13]]]}
{"reaction_name": "Michael addition", "rsmi": "[N:1]1([c:5]2[c:32]([CH3:7])[cH:28][c:22]([CH3:14])[cH:31][c:35]2[CH3:10])[CH:27]=[CH:26][N:2]([c:6]2[c:33]([CH3:8])[cH:29][c:23]([CH3:15])[cH:30][c:34]2[CH3:9])[C:40]1=[CH2:24].[S:3]([c:12]1[cH:36][cH:18][cH:16][cH:21][cH:39]1)([C:25]([S:4]([c:13]1[cH:37][cH:19][cH:17][cH:20][cH:38]1)(=[O:41])=[O:42])=[CH2:11])(=[O:43])=[O:44]>>[n+:1]1(-[c:5]2[c:32]([CH3:7])[cH:28][c:22]([CH3:14])[cH:31][c:35]2[CH3:10])[cH:27][cH:26][n:2](-[c:6]2[c:33]([CH3:8])[cH:29][c:23]([CH3:15])[cH:30][c:34]2[CH3:9])[c:40]1[CH2:24][CH2:11][C-:25]([S:3]([c:12]1[cH:36][cH:18][cH:16][cH:21][cH:39]1)(=[O:43])=[O:44])[S:4]([c:13]1[cH:37][cH:19][cH:17][cH:20][cH:38]1)(=[O:41])=[O:42]", "epd": [["LP-/Pi+", [1], [40, 1]], ["Pi-/Sigma+", [24, 40], [24, 11]], ["Pi-/LP+", [11, 25], [25]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:19])([O:31][CH2:3][c:14]1[cH:23][cH:6][cH:12][cH:9][cH:26]1)[N:34]=[N:33][C:2](=[O:20])[O:32][CH2:4][c:15]1[cH:24][cH:7][cH:13][cH:8][cH:25]1.[C:5]1(=[CH2:18])[N:29]([CH3:10])[c:28]2[cH:16][cH:21][cH:22][cH:17][c:27]2[N:30]1[CH3:11]>>[C:1]([O-:19])([O:31][CH2:3][c:14]1[cH:23][cH:6][cH:12][cH:9][cH:26]1)=[N:34][N:33]([C:2](=[O:20])[O:32][CH2:4][c:15]1[cH:24][cH:7][cH:13][cH:8][cH:25]1)[CH2:18][c:5]1[n+:29]([CH3:10])[c:28]2[cH:16][cH:21][cH:22][cH:17][c:27]2[n:30]1[CH3:11]", "epd": [["LP-/Pi+", [29], [5, 29]], ["Pi-/Sigma+", [18, 5], [18, 33]], ["Pi-/Pi+", [33, 34], [34, 1]], ["Pi-/LP+", [1, 19], [19]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[c:3]1([N:18]=[C:7]=[S:10])[cH:20][cH:11][c:8]([N+:19](=[O:4])[O-:9])[cH:12][cH:21]1.[cH:1]1[c:15]2[cH:14][cH:6][cH:2][cH:13][c:17]2[cH-:5][cH:16]1>>[CH:1]1=[CH:16][CH:5]([C:7]([S-:10])=[N:18][c:3]2[cH:20][cH:11][c:8]([N+:19](=[O:4])[O-:9])[cH:12][cH:21]2)[c:17]2[cH:13][cH:2][cH:6][cH:14][c:15]21", "epd": [["LP-/Sigma+", [5], [5, 7]], ["Pi-/LP+", [7, 10], [10]]]}
